US08563617B2
N-(2-(8-Benzyl-7-(oxetan-3-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-cyclopropylmethanesulfonamide
N-(2-(7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-cyclopropylmethanesulfonamide (50 mg, 0.121 mmol) was dissolved in methanol. Oxetan-3-one (87 mg, 1.21 mmol), zinc chloride (66 mg, 0.482 mmol) and sodium cyanoborohydride (23 mg, 0.362 mmol) were added at 0° C. The reaction mixture was then heated to 40° C. for 5 h. Aqueous ammonium chloride solution was added and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 3 mg (6.4 μmol, 5%).

reactant | N-(2-(7-Amino-8-benzyl-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-cyclopropylmethanesulfonamide | 0.121 mmol, 50 mg | NC1CCC=2C=CC(=CC2C1CC1=CC=CC=C1)OCCNS(=O)(=O)CC1CC1 | C23H30N2O3S
reactant | Oxetan-3-one | 1.21 mmol, 87 mg | O1CC(C1)=O | C3H4O2
reactant | sodium cyanoborohydride | 0.362 mmol, 23 mg | C(#N)[BH3-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | zinc chloride | 0.482 mmol, 66 mg | [Cl-].[Zn+2].[Cl-]
product | N-(2-(8-Benzyl-7-(oxetan-3-ylamino)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethyl)-1-cyclopropylmethanesulfonamide | C(C1=CC=CC=C1)C1C(CCC=2C=CC(=CC12)OCCNS(=O)(=O)CC1CC1)NC1COC1 | C26H34N2O4S
